US07205306B2
3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-(1-methylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 1-sec-butyl-3,5-dichloro-2(1H)-pyrazinone and 7-bromo-5-methoxyindoline hydrochloride as the starting materials. mp 155–157° C.; 1H NMR (300 MHz, CDCl3): δ 6.90 (d, J=2.6 Hz, 1 H), 6.78 (s, 1 H), 6.76 (d, J=2.1 Hz, 1 H), 4.99–4.87 (m, 1 H), 4.34 (t, J=7.7 Hz, 2 H), 3.76 (s, 3 H), 3.08 (t, J=7.7 Hz, 2 H), 1.74–1.65 (m, 2 H), 1.34 (d, J=7.0 Hz, 3 H), 0.89 (t, J=7.5 Hz, 3 H); HRMS (ESI) calcd for C20H22N3O2BrCl (M+H)+: 412.0427; found m/z 412.0448.

reactant | 1-sec-butyl-3,5-dichloro-2(1H)-pyrazinone | C(C)(CC)N1C(C(=NC(=C1)Cl)Cl)=O | C8H10Cl2N2O
reactant | 7-bromo-5-methoxyindoline hydrochloride | Cl.BrC=1C=C(C=C2CCNC12)OC
product | 3-(7-Bromo-5-methoxy-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-(1-methylpropyl)-2(1H)-pyrazinone | BrC=1C=C(C=C2CCN(C12)C=1C(N(C=C(N1)Cl)C(CC)C)=O)OC | C17H19BrClN3O2
